US07981903B2
A slurry of 2,4-dichloro-5-fluoro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine (1.250 g, 3.47 mmol) DIPEA (3.03 mL, 17.35 mmol) and 2-amino-6-fluorobenzoic acid (0.646 g, 4.16 mmol) in iPrOH (30 mL) was heated at 90° C. for 3 h. The resulting mixture was allowed to cool to rt and diluted with EtOAc (100 mL) and a 1N HCl solution (100 mL). The organic layer was washed with a saturated NaHCO3 solution (100 mL) and a saturated NaCl solution (100 mL). The organic layer was diluted with Et2O and the resulting slurry filtered. The solids were washed with Et2O and dried in vacuum to afford 2-({2-chloro-5-fluoro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzoic acid (0.69 g, 41%). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.38 (s, 3H), 6.71-6.87 (m, 1H), 7.21-7.36 (m, 1H), 7.48 (d, J=8.06 Hz, 2H), 7.76 (s, 1H), 7.96 (d, J=8.42 Hz, 2H), 8.26 (d, J=8.61 Hz, 1H).

reactant | 2,4-dichloro-5-fluoro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidine | 3.47 mmol, 3.03 mL, 1.250 g | ClC=1N=C(C2=C(N1)N(C=C2F)S(=O)(=O)C2=CC=C(C=C2)C)Cl | C13H8Cl2FN3O2S
reactant | 2-amino-6-fluorobenzoic acid | 4.16 mmol, 0.646 g | NC1=C(C(=O)O)C(=CC=C1)F | C7H6FNO2
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | iPrOH | 30 mL | CC(C)O | C3H8O
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 2-({2-chloro-5-fluoro-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzoic acid | 0.69 g, 41% | ClC=1N=C(C2=C(N1)N(C=C2F)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)O)C(=CC=C2)F | C20H13ClF2N4O4S
